US08221719B2
Synthesis of diethyl 4-iodopyridine-2,6-dicarboxylate (1)
A mixture of diethyl 4-bromopyridine-2,6-dicarboxylate (8.36 g, 27.7 mmol), 57% (w/w) aqueous hydriodic acid (31.05 g, 138.4 mmol) and EtOH (67 mL) was stirred at 50° C. for 1 h and neutralized with saturated NaHCO3 solution. The product was extracted from the aqueous phase with CH2Cl2 (2×300 mL). The combined organic fractions were dried with Na2SO4 and evaporated to dryness. Yield was 5.24 g (54%). ESI-TOF-MS [M+H]+: calc. for C11H13INO4+ 349.99. found 349.99.

reactant | diethyl 4-bromopyridine-2,6-dicarboxylate | 27.7 mmol, 8.36 g | BrC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C11H12BrNO4
reactant | hydriodic acid | 138.4 mmol, 31.05 g | I | HI
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH | 67 mL | CCO | C2H6O
product | diethyl 4-iodopyridine-2,6-dicarboxylate | IC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C11H12INO4
